US08912188B2
To a solution of methyl 3-chloro-2-hydroxyquinoxaline-6-carboxylate (450 mg, crude) in DMSO (5 mL) was added diethylamine (550 mg, 7.52 mmol), DIEA (492 mg, 3.81 mmol). After stirring for 2 h at 70° C., the resulting solution was diluted with water (50 mL), extracted with ethyl acetate (4×20 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford a residue, which was purified by a silica gel column with 5% ethyl acetate in petroleum ether to afford methyl 3-(diethylamino)-2-hydroxyquinoxaline-6-carboxylate as a yellow solid (160 mg).

reactant | methyl 3-chloro-2-hydroxyquinoxaline-6-carboxylate | 450 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)O | C10H7ClN2O3
reactant | diethylamine | 7.52 mmol, 550 mg | C(C)NCC | C4H11N
reactant | DIEA | 3.81 mmol, 492 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | 50 mL | O | H2O
product | methyl 3-(diethylamino)-2-hydroxyquinoxaline-6-carboxylate | 160 mg | C(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)O)CC | C14H17N3O3
